US06521666B1
NaBH4 (12 mg) was added to a solution of 3-acety-1N-(2,6-dichlorobenzoyl)-4-(2-methoxyphenyl)-L-phenylalanine ethyl ester (0.1 g) in MeOH (3 mL) and the mixture was stirred at room temperature for 2 h. The mixture was quenched with 1 N HCl and extracted with CH2Cl2. The extract was washed successively with 1 N HCl and brine, dried and evaporated. The residue was purified by a flash column chromatography (silica gel; eluent: hexanes/EtOAc 3:1) to yield 45 mg of N-(2,6-dichlorobenzoyl)-3-(1-hydroxyethyl)-4-(2-methoxyphenyl)-L-phenylalanine ethyl ester. ESMS: m/z 516 (MH+).

reactant | NaBH4 | 12 mg | [BH4-].[Na+]
reactant | 3-acety-1N-(2,6-dichlorobenzoyl)-4-(2-methoxyphenyl)-L-phenylalanine ethyl ester | 0.1 g | C(C)OC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC(=C(C=C1)C1=C(C=CC=C1)OC)C(C)=O)=O | C27H25Cl2NO5
solvent | MeOH | 3 mL | CO | CH4O
product | N-(2,6-dichlorobenzoyl)-3-(1-hydroxyethyl)-4-(2-methoxyphenyl)-L-phenylalanine ethyl ester | 45 mg | C(C)OC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC(=C(C=C1)C1=C(C=CC=C1)OC)C(C)O)=O | C27H27Cl2NO5
